US05753679
0.13 g (0.00038 mol) of 1-(4-nitro-benzyl)-piperidin-4-yl benzoate was dissolved in 7.6 ml of ethanol and treated with 0.08 g of Raney-nickel. The mixture was hydrogenated at room temperature and under normal pressure for 2 hrs. The catalyst was filtered off and, after concentration, the residue was chromatographed on silica gel with ethyl acetate/hexane (1:1) as the eluent. 0.1 g (84%) of 1-(4-amino-benzyl)-piperidin-4-yl benzoate was obtained as a yellowish oil. MS: me/e=311 (C19H23N2 O2+).

reactant | 1-(4-nitro-benzyl)-piperidin-4-yl benzoate | 0.00038 mol, 0.13 g | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C19H20N2O4
solvent | ethanol | 7.6 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.08 g | [Ni] | Ni
product | 1-(4-amino-benzyl)-piperidin-4-yl benzoate | 0.1 g, 84% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC=C(C=C1)N | C19H22N2O2
